US05807896
1.0 g of 2-ethyl-3-methylsulphonyl-4-phenylbenzoic acid [obtainable by reacting methyl 2-ethyl-3-methylsulphonyl-4-bromobenzoate with phenylboronic acid in the presence of tetrakis(triphenylphosphine)-Pd(0) and then hydrolyzing] is dissolved in 15 ml of 1-methylpyrrolidone, and 0.67 g of 1-methyl-2-chloropyridinium chloride is added to this solution which is then stirred for 15 min. 0.9 g of guanidinium chloride and 2.6 ml of diisopropylethylamine are then added, and the mixture is stirred at room temperature for one hour. N-Diaminomethylene-2-ethyl-3-methylsulphonyl-4-phenylbenzamide is obtained after customary working-up.

reactant | 2-ethyl-3-methylsulphonyl-4-phenylbenzoic acid | 1.0 g | C(C)C1=C(C(=O)O)C=CC(=C1S(=O)(=O)C)C1=CC=CC=C1 | C16H16O4S
reactant | methyl 2-ethyl-3-methylsulphonyl-4-bromobenzoate | C(C)C1=C(C(=O)OC)C=CC(=C1S(=O)(=O)C)Br | C11H13BrO4S
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 1-methyl-2-chloropyridinium chloride | 0.67 g | [Cl-].C[N+]1=C(C=CC=C1)Cl
reactant | guanidinium chloride | 0.9 g | [Cl-].NC(=[NH2+])N
reactant | diisopropylethylamine | 2.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
product | N-Diaminomethylene-2-ethyl-3-methylsulphonyl-4-phenylbenzamide | NC(=NC(C1=C(C(=C(C=C1)C1=CC=CC=C1)S(=O)(=O)C)CC)=O)N | C17H19N3O3S
